US08541411B2
a) 6-bromo-2-methyl-1-(naphthalen-1-ylmethyl)-4-nitro-1H-benzo[d]imidazole
A mixture of 6-bromo-2-methyl-4-nitro-1H-benzo[d]imidazole (prepared following the same procedure as Example 1) (3 g), 1-(bromomethyl)naphthalene (2.85 g) and K2CO3 (3.23 g) in DMF (100 mL) was stirred at 80° C. overnight. It was cooled to room temperature and filtered. The filtrate was then poured into water. It was then filtered to afford a solid and the solid was washed with water and then dried in-vacuo to afford the desired product (4.63 g, 100%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.54 (s, 3H), 6.16 (s, 2H), 6.32 (d, 1H, J=7.5 Hz), 7.33 (t, 1H, J=7.5 Hz), 7.61-7.72 (m, 2H), 7.87 (d, 1H, J=7.5 Hz), 8.01 (d, 1H, J=7.5 Hz), 8.14 (d, 1H, J=1.8 Hz), 8.19 (d, 1H, J=7.5 Hz), 8.28 (d, 1H, J=1.8 Hz); LC-MS: m/e=296 [M+1]+.

reactant | 6-bromo-2-methyl-4-nitro-1H-benzo[d]imidazole | BrC=1C=C(C2=C(NC(=N2)C)C1)[N+](=O)[O-] | C8H6BrN3O2
reactant | 1-(bromomethyl)naphthalene | 2.85 g | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
reactant | K2CO3 | 3.23 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6-bromo-2-methyl-1-(naphthalen-1-ylmethyl)-4-nitro-1H-benzo[d]imidazole | 4.63 g, 100% | BrC=1C=C(C2=C(N(C(=N2)C)CC2=CC=CC3=CC=CC=C23)C1)[N+](=O)[O-] | C19H14BrN3O2
